US08809552B2
a) 6-(3-Phenyl-propylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester
In analogy to the experimental procedure of example 8) 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester instead of 1-benzyl-1,6-diaza-spiro[3.3]heptane was converted using (3-isocyanato-propyl)-benzene into the title compound which was used directly in the next step without further purification.

reactant | 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CNC2 | C10H18N2O2
reactant | (3-isocyanato-propyl)-benzene | N(=C=O)CCCC1=CC=CC=C1 | C10H11NO
product | 6-(3-Phenyl-propylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CN(C2)C(NCCCC2=CC=CC=C2)=O | C20H29N3O3
